* c:\users\pranav\desktop\esim\esim_mixed_signal_ajay_pranav\esim_mixed_signal_ajay_pranav.cir

.include avsd_opamp.sub
.include "C:\Users\Pranav\Desktop\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\Users\Pranav\Desktop\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\Users\Pranav\Desktop\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\Users\Pranav\Desktop\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.lib "C:\Users\Pranav\Desktop\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\Users\Pranav\Desktop\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\Users\Pranav\Desktop\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
x1 net-_x1-pad1_ net-_x1-pad2_ net-_sc1-pad2_ in1 net-_sc1-pad1_ gnd avsd_opamp
x2 net-_x2-pad1_ net-_x2-pad2_ net-_sc2-pad2_ in2 net-_sc3-pad2_ gnd avsd_opamp
x3 net-_sc1-pad3_ net-_x3-pad2_ net-_sc5-pad2_ net-_sc4-pad1_ out gnd avsd_opamp
v2  in2 gnd sine(0 0.05 1 0 0)
v1  in1 gnd sine(0 0.05 1 0 0)
v6 net-_x1-pad1_ gnd  dc 1
v4 gnd net-_x1-pad2_  dc 1
v5 gnd net-_x2-pad2_  dc 1
v3 net-_x2-pad1_ gnd  dc 1
v7 net-_sc1-pad3_ gnd  dc 1
v8 gnd net-_x3-pad2_  dc 1
* s c m o d e
xsc5 net-_sc1-pad1_ net-_sc5-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc6 net-_sc5-pad2_ out net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc2 net-_sc1-pad2_ net-_sc2-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc3 net-_sc2-pad2_ net-_sc3-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd L=0.85
xsc4 net-_sc4-pad1_ net-_sc3-pad2_ gnd sky130_fd_pr__res_generic_pd L=0.85
xsc7 gnd net-_sc4-pad1_ gnd sky130_fd_pr__res_generic_pd L=0.85
* u3  out plot_v1
* u1  in1 plot_v1
* u2  in2 plot_v1
.tran 0.01e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in1)
plot v(in2)
.endc
.end
